US05811433
b. Ethyl 7,8-dichloro-1[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate
6.6 g (0.017 mol) of ethyl 2-(4,5,6-trichloronicotinoyl)-3-[(1R,2S)-2-fluorocyclopropyl]aminoacrylate are stirred with 2.7 g (0.019 mol) of potassium carbonate in 35 ml of DMF at room temperature overnight. Ice-water is added to the mixture and the product is isolated.

reactant | ethyl 2-(4,5,6-trichloronicotinoyl)-3-[(1R,2S)-2-fluorocyclopropyl]aminoacrylate | 0.017 mol, 6.6 g | ClC1=C(C(=NC=C1C(=O)C(C(=O)OCC)=CN[C@H]1[C@H](C1)F)Cl)Cl | C14H12Cl3FN2O3
reactant | potassium carbonate | 0.019 mol, 2.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | Ethyl 7,8-dichloro-1[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate | ClC1=NC=C2C(C(=CN(C2=C1Cl)[C@H]1[C@H](C1)F)C(=O)OCC)=O | C14H11Cl2FN2O3
